US07186730B2
(a) 2-Benzo[1,3]dioxol-5-yl-ethanol
A solution of benzo[1,3]dioxol-5-yl-acetic acid (2.5 g, 13.9 mmol) in tetrahydrofuran (15 ml) under argon at −10° C. was treated dropwise with borane-dimethylsulfide complex (1.45 ml, 15.3 mmol). The mixture was stirred at ambient temperature for 1.5 hours (CAUTION—exothermic reaction). The orange solution was cooled to ˜5° C. (ice bath) and methanol (1.4 ml) was added. After 0.5 hour at room temperature, the mixture was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The organic extract was dried and evaporated to give a yellow oil (1.95 g, 84%).

reactant | benzo[1,3]dioxol-5-yl-acetic acid | 13.9 mmol, 2.5 g | O1COC2=C1C=CC(=C2)CC(=O)O | C9H8O4
reactant | methanol | 1.4 ml | CO | CH4O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-Benzo[1,3]dioxol-5-yl-ethanol | 1.95 g, 84% | O1COC2=C1C=CC(=C2)CCO | C9H10O3
